US07838517B2
Method K: 1-[1-(2-Chloro-phenyl)-ethyl]-1,2,3,4-tetrahydro-thieno[3,2-e][1,4]diazepin-5-one
1-(2-Chloro-phenyl)-ethanol (1.0 g, 6.39 mmol, 3.6 Eq) and Et3N (1.16 mL, 8.30 mmol, 4.7 Eq) were dissolved in anhydrous DCM (20 mL) and cooled to 0° C. under nitrogen. MsCl (645 μL, 8.30 mmol, 4.7 Eq) was added portionwise. After 3.5 hours, the reaction was poured into 1M HCl (20 mL) and the layers separated. The aqueous layer was extracted with EtOAc (2×30 mL) and the combined organic extracts washed with brine (30 mL), dried (MgSO4) and concentrated in vacuo. The residue was dissolved in dioxane (6 mL) and 1,2,3,4-tetrahydro-thieno[3,2-e][1,4]diazepin-5-one (300 mg, 1.78 mmol, 1.0 Eq) was added and the reaction heated at reflux overnight. The reaction was cooled to ambient temperature and the solvent removed in vacuo. The residue was purified by column chromatography (ISCO™ Companion©, 40 g column, 0 to 10% MeOH/DCM) to give the title compound as an off-white solid (178 mg, 0.06 mmol, 33%); 1H NMR (DMSO D6) 1.50 (3H, d), 2.92-2.99 (1H, m), 3.13 (1H, m), 3.20-3.25 (2H, m), 5.32 (1H, dd), 6.91 (1H, d), 7.25-7.35 (2H, m), 7.36-7.41 (2H, m), 7.58 (1H, d), 7.61-7.63 (1H, m); LC/MS M+1 (obs.) 307.0.

reactant | 1-(2-Chloro-phenyl)-ethanol | 6.39 mmol, 1.0 g, 3.6 Eq | ClC1=C(C=CC=C1)C(C)O | C8H9ClO
reactant | Et3N | 8.30 mmol, 1.16 mL, 4.7 Eq | CCN(CC)CC | C6H15N
reactant | MsCl | 8.30 mmol, 645 μL, 4.7 Eq | CS(=O)(=O)Cl | CH3ClO2S
reactant | HCl | 1M, 20 mL | Cl | ClH
reactant | 1,2,3,4-tetrahydro-thieno[3,2-e][1,4]diazepin-5-one | 1.78 mmol, 300 mg, 1.0 Eq | N1CCNC(C2=C1C=CS2)=O | C7H8N2OS
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-[1-(2-Chloro-phenyl)-ethyl]-1,2,3,4-tetrahydro-thieno[3,2-e][1,4]diazepin-5-one | 0.06 mmol, 178 mg, 33% | ClC1=C(C=CC=C1)C(C)N1CCNC(C2=C1C=CS2)=O | C15H15ClN2OS
